US08110579B2
Add 1.79 g (10.05 mmol) of N-bromosuccinimide to a solution of 1.4 g (9.14 mmol) of methyl 5-aminopyrazine-2-carboxylate in 10 mL of acetonitrile. Stir the reaction mixture for 2 h at 20° C. then distribute in 100 mL of EtOAc/water 1:1 mixture. Wash the organic phase with 2×50 mL of water, dry over Na2SO4 and concentrate under reduced pressure. Purify the residue obtained by silica gel column chromatography, eluting with a cyclohexane/EtOAc gradient from 0 to 50% of EtOAc. After concentration under reduced pressure, we obtain 1.66 g of methyl 5-amino-6-bromopyrazine-2-carboxylate in the form of yellow wax.

reactant | N-bromosuccinimide | 10.05 mmol, 1.79 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | methyl 5-aminopyrazine-2-carboxylate | 9.14 mmol, 1.4 g | NC=1N=CC(=NC1)C(=O)OC | C6H7N3O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | EtOAc water | 100 mL | CCOC(=O)C.O
product | methyl 5-amino-6-bromopyrazine-2-carboxylate | 1.66 g, Yield=78% | NC=1N=CC(=NC1Br)C(=O)OC | C6H6BrN3O2
